US08937091B2
2-(N-phenethyl)aminoethyl-3-thiophenylketone 8626
3-acetylthiophene (126 mg), phenylethyl amine (121 mg), and paraformaldehyde (40 mg) were reacted in dioxane (0.2 ml) at 130° C. for 2 hours.

reactant | 3-acetylthiophene | 126 mg | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | phenylethyl amine | 121 mg | C1(=CC=CC=C1)CCN | C8H11N
reactant | paraformaldehyde | 40 mg | C=O | CH2O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(N-phenethyl)aminoethyl-3-thiophenylketone | C(CC1=CC=CC=C1)NCCC(=O)C1=CSC=C1 | C15H17NOS
